US04215044
A solution of 18.8 g (0.07 mol) of the aforesaid α-trimethylsiloxystilbene in 200 ml of chlorotrifluoromethane was cooled to -70° C. and 7.3 g (0.07 mol) of trifluoromethyl hypofluorite were passed into the solution over a 3 hour period. The reaction mixture then was warmed to room temperature and evaporated to dryness under reduced pressure to give a white solid. Recrystallization from heptane gave 10.81 g (72% yield) of α-fluoro-α-phenylacetophenone as colorless crystals: mp 50°-51° C.; 19F NMR (CDCl3) δ-176.5 ppm (d, J=49 Hz); 1H NMR (CDCl3) δ 6.52 ppm (d, J=49 Hz, 1H), 7.2-8.2 ppm (m, 10H). Anal. Calcd. for C14H11FO: C, 78.49; H, 5.18; F, 8.87; Found: C, 78.52; H, 5.13; F, 8.65.

reactant | α-trimethylsiloxystilbene | 0.07 mol, 18.8 g | C[Si](OC(C1=CC=CC=C1)=CC1=CC=CC=C1)(C)C | C17H20OSi
reactant | trifluoromethyl hypofluorite | 0.07 mol, 7.3 g | FOC(F)(F)F | CF4O
solvent | chlorotrifluoromethane | 200 ml | ClC(F)(F)F | CClF3
product | α-fluoro-α-phenylacetophenone | 10.81 g, 72% yield | FC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H11FO
